US07829588B2
4-Iodo-2-phenethyloxybenzaldehyde
The procedure is the same as that described above, using 6.6 g, that is 18.8 mmol, of (4-iodo-2-phenethyloxyphenyl)methanol, 1.8 ml of oxalyl chloride and 3 ml of DMSO. After evaporation of the solvents, 6.4 g (96%) of the expected compound are recovered in the form of a yellow solid.

reactant | (4-iodo-2-phenethyloxyphenyl)methanol | IC1=CC(=C(C=C1)CO)OCCC1=CC=CC=C1 | C15H15IO2
reactant | oxalyl chloride | 1.8 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DMSO | 3 ml | CS(=O)C | C2H6OS
product | 4-Iodo-2-phenethyloxybenzaldehyde | IC1=CC(=C(C=O)C=C1)OCCC1=CC=CC=C1 | C15H13IO2
